US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-2,3-dihydroindol-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
7-[3-(2,3-Dioxo-2,3-dihydroindol-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.3 g) was suspended in hydrazine hydrate(3 ml), and the liquid was stirred for two hours while heated under reflux. The reaction mixture was cooled to room temperature. Water was added thereto, followed by extraction by ethyl acetate. The organic layer was dried by anhydrous sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: hexane=85:15). The purified product was condensed under reduced pressure, and the residue was recrystallized from ether/hexane, thereby obtaining the title compound(0.18 g) as a pale brownish white powder.

reactant | 7-[3-(2,3-Dioxo-2,3-dihydroindol-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.3 g | O=C1N(C2=CC=CC=C2C1=O)CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C25H27N3O5
reactant | Water | O | H2O
solvent | hydrazine hydrate | 3 ml | O.NN
product | 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-2,3-dihydroindol-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.18 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(CC1=CC=CC=C21)=O | C25H29N3O4
